US04038407
c. 5,6-Dimethoxy-1,2-benzisothiazoline-3-one-1,1-dioxide
16 gm (0.08 mol) of 2-methyl-4,5-dimethoxy-benzene sulfonamide were dissolved in 500 ml of an aqueous 5% sodium hydroxide solution, and the solution was heated at its boiling point for 2 hours after addition of 39.6 gm (0.25 mol) of potassium permanganate. After cooling, the reaction mixture was suction-filtered through celite, and the desired product was precipitated by addition of concentrated hydrochloric acid. Rf -value (benzene/acetone = 3/1): 0.2-0.4.

reactant | 2-methyl-4,5-dimethoxy-benzene sulfonamide | 0.08 mol, 16 gm | CC1=C(C=C(C(=C1)OC)OC)S(=O)(=O)N | C9H13NO4S
reactant | potassium permanganate | 0.25 mol, 39.6 gm | [Mn](=O)(=O)(=O)[O-].[K+]
solvent | sodium hydroxide | [OH-].[Na+]
product | 5,6-Dimethoxy-1,2-benzisothiazoline-3-one-1,1-dioxide | COC=1C(=CC2=C(C(NS2(=O)=O)=O)C1)OC | C9H9NO5S
